US08217032B2
Methanesulfonic acid 6-(2,4-difluoro-phenyl)-5-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester
Dissolve [2-(2,4-difluoro-phenyl)-6-hydroxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone (540 mg, 1.11 mmoles), and methane sulfonyl chloride (254 mg, 2.22 mmoles) in 10 ml acetonitrile and add triethylamine (224 mg, 2.22 mmoles). Stir the mixture for 5 days at room temp. Add equivalent amounts of the sulfonyl chloride and triethylamine and stir for 30 minutes. Evaporate the mixture to dryness, dissolve in methanol and pass through an SCX column. Wash the column with methanol and elute the product with 2 N ammonia/methanol to yield 433 mg (69%) of the title compound: mass spectrum (ion spray) m/z=566 (M+H).

reactant | [2-(2,4-difluoro-phenyl)-6-hydroxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 1.11 mmoles, 540 mg | FC1=C(C=CC(=C1)F)C1=C(C2=CC=C(C=C2C=C1)O)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1 | C30H27F2NO3
reactant | methane sulfonyl chloride | 2.22 mmoles, 254 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 2.22 mmoles, 224 mg | C(C)N(CC)CC | C6H15N
reactant | sulfonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | Methanesulfonic acid 6-(2,4-difluoro-phenyl)-5-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester | 433 mg, 69% | FC1=C(C=CC(=C1)F)C=1C(=C2C=CC(=CC2=CC1)OS(=O)(=O)C)C(C1=CC=C(C=C1)OCCN1CCCCC1)=O | C31H29F2NO5S
